US05382590
0.16 g of 0-methylhydroxylamine hydrochloride in solution in 2 cm3 of water is added to a solution of 0.92 g of 2-{2-[3-(3-acetylphenyl)ureido]-N-phenylacetamido}-N-methyl-N-phenylacetamide in 10 cm3 of ethanol. The mixture is stirred under reflux for 3 hours and then at a temperature close to 25° C for 12 hours and concentrated to a volume of about 3 cm3 under reduced pressure (2.7 kPa) at 40° C. 20 cm3 of distilled water are then added and the insoluble product is separated off by filtration and air-dried. After recrystallization from a methanol/diisopropyl ether mixture (60/40 by volume), 0.31 g of (Z)-2-{2-{3-[3-(1-methoxyiminoethyl)phenyl]ureido}-N-phenylacetamido}-N-methyl-N-phenylacetamide melting at 165° C is obtained.

reactant | 0-methylhydroxylamine hydrochloride | 0.16 g | CO[NH3+].[Cl-]
reactant | 2-{2-[3-(3-acetylphenyl)ureido]-N-phenylacetamido}-N-methyl-N-phenylacetamide | 0.92 g | C(C)(=O)C=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(=O)N(C1=CC=CC=C1)C)=O | C26H26N4O4
solvent | water | 2 cm3 | O | H2O
solvent | ethanol | 10 cm3 | C(C)O | C2H6O
product | (Z)-2-{2-{3-[3-(1-methoxyiminoethyl)phenyl]ureido}-N-phenylacetamido}-N-methyl-N-phenylacetamide | 0.31 g | CO\N=C(\C)/C=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(=O)N(C1=CC=CC=C1)C)=O | C27H29N5O4
